US07989471B2
7-Methoxy-8-methyl-2-(4-methoxyphenyl)-quinazolin-4-ol (71)
The general procedure described in Example 31 was followed using 2-amino-4-methoxy-3-methyl benzamide as benzamide derivative [A] and 4-methoxybenzoic acid chloride as acid chloride [B], which gave the title compound (5.5 g, 92%). 1H-NMR DMSO-D6 δ 2.38 (s, 3H), 3.82 (s, 3H), 3.92 (s, 3H), 7.04 (d, 2H), 7.20 (d, 1H), 8.00 (d, 1H), 8.20 (d, 2H), 12.18 (s, 1H).

reactant | 2-amino-4-methoxy-3-methyl benzamide | NC1=C(C(=O)N)C=CC(=C1C)OC | C9H12N2O2
reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | 4-methoxybenzoic acid chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | 7-Methoxy-8-methyl-2-(4-methoxyphenyl)-quinazolin-4-ol | 5.5 g, 92% | COC1=CC=C2C(=NC(=NC2=C1C)C1=CC=C(C=C1)OC)O | C17H16N2O3
